US07629379B2
To a stirred solution of diethyl-2-carbazolyloxymethylphosphonate (0.33 g, 1 mmol) dissolved in dry dichloromethane (8 ml) under an atmosphere of nitrogen was added trimethyl silyl iodide (0.6 ml). The red solution was stirred for 2 h then methanol (15 ml) was added. After 2 h the solvent was removed under reduced pressure and then water (20 ml) was added to the residue. The mixture was concentrated under reduced pressure. Water (20 ml) was added and the mixture was concentrated under reduced pressure. This was repeated four times to afford 2-carbazolyloxymethyl phosphonic acid as a yellow green solid (0.26 g, 95%), m.p. 291° C., High Resolution Mass Spec. Pound: 277.0496, C13H12NO4PM+ requires 277.0504. δH (270 MHz, DMSO-d6) 11.13 (1H, s), 7.983 (1H, d, J 5.7 Hz), 7.98 (1H, d, J 5.7 Hz), 7.42 (1H, d, J 8 Hz), 7.28 (1H, dd, J1 8 Hz, J2 8 Hz), 7.10 (1H, dd, J1 8 Hz, J2 8 Hz), 7.05 (1H, d, J 2 Hz), 6.81 (1H, dd, J1 8 Hz, J2 2 Hz), 4.17 (2H, d, J 10.2 Hz), λex (DMSO, nm) 385, λem 421.

reactant | diethyl-2-carbazolyloxymethylphosphonate | 1 mmol, 0.33 g | C(C)OP(OCC)(=O)COC1=CC=2NC3=CC=CC=C3C2C=C1 | C17H20NO4P
reactant | trimethyl silyl iodide | 0.6 ml | C[Si](C)(C)I | C3H9ISi
reactant | methanol | 15 ml | CO | CH4O
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
product | 2-carbazolyloxymethyl phosphonic acid | 0.26 g, 95% | C1=C(C=CC=2C3=CC=CC=C3NC12)OCP(O)(O)=O | C13H12NO4P
